US07612075B2
To a solution of 4-(2-oxo-piperazin-1-ylmethyl)-piperidine-1-carboxylic acid tert-butyl ester (1.44 g, 4.8 mmol) in CH2Cl2 (75 mL) and MeCN (10 mL) is added diisopropylethylamine (1.3 mL, 4.8 mmol) followed by 6-chloro-benzo[b]thiophene-2-sulfonyl chloride (1.29 g, 4.8 mmol), and the reaction is allowed to stir 16 h. The reaction is diluted with CH2Cl2 and washed with 1N HCl and NaHCO3, dried and concentrated. The residue is purified by column chromatography (silica, 40% EtOAc/CH2Cl2) to provide 4-[4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-2-oxo-piperazin-1-ylmethyl]-piperidine-1-carboxylic acid tert-butyl ester. 1H NMR (300 MHz, CDCl3) δ 7.88-7.83 (m, 3H), 7.47 (dd, 1H), 4.1 (br, 2H), 3.86 (s, 2H), 3.46 (bs, 4H), 3.25 (br, 2H), 2.61 (t, 2H), 1.87-1.75 (m, 1H), 1.51 (d, 2H), 1.41 (s, 9H), 1.10 (ddd, 2H); MS (Ion spray) 528 (M+H)+.

reactant | 4-(2-oxo-piperazin-1-ylmethyl)-piperidine-1-carboxylic acid tert-butyl ester | 4.8 mmol, 1.44 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1C(CNCC1)=O | C15H27N3O3
reactant | diisopropylethylamine | 4.8 mmol, 1.3 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 6-chloro-benzo[b]thiophene-2-sulfonyl chloride | 4.8 mmol, 1.29 g | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)Cl)C1 | C8H4Cl2O2S2
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
solvent | MeCN | 10 mL | CC#N | C2H3N
product | 4-[4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-2-oxo-piperazin-1-ylmethyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1C(CN(CC1)S(=O)(=O)C1=CC2=C(S1)C=C(C=C2)Cl)=O | C23H30ClN3O5S2
